US05948911
Following the procedure of Example 1, the reaction of 3,4-dimethoxybenzylamine with 2,4-dichloro-6-ethyl-thieno-[2,3-d]-pyrimidine yields 2-chloro-6-ethyl-4-(3,4-dimethoxybenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 3,4-dimethoxybenzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | 2,4-dichloro-6-ethyl-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)CC)Cl | C8H6Cl2N2S
product | 2-chloro-6-ethyl-4-(3,4-dimethoxybenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)CC)NCC2=CC(=C(C=C2)OC)OC | C17H18ClN3O2S
